US04297516
1,2-bis-Methoxy-1-trimethylsilyloxyethylene
To a solution of 186 g. (1.2 mol) of 1,1,1,3,3,3-hexamethyldisilazane in 550 ml. of tetrahydrofuran is added under argon with stirring at 0° C. 417.6 ml. of 2.3 M n-butyllithium in hexane. After 0.5 hours the solution is cooled to -78° C. and 100 g. (0.96 mol) methyl methoxyacetate is added dropwise. After 0.5 hours, 104.35 g. (0.96 mol) of trimethylchlorosilane is added dropwise. The solution is allowed to slowly warm to room temperature. The mixture is filtered and the solvent is removed. The residue is dissolved in petroleum ether and the mixture is filtered through Celite. The solvent is removed and the residue is fractionally distilled. The fraction boiling 68°-71°, 35 mm. consists of 83 g. of the title compound.

reactant | 1,1,1,3,3,3-hexamethyldisilazane | 1.2 mol | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 2.3 M | C(CCC)[Li]
reactant | methyl methoxyacetate | 0.96 mol | COCC(=O)OC | C4H8O3
reactant | trimethylchlorosilane | 0.96 mol | C[Si](Cl)(C)C | C3H9ClSi
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,2-bis-Methoxy-1-trimethylsilyloxyethylene | COC(=COC)O[Si](C)(C)C | C7H16O3Si
